US07071175B1
(i) 3-(6-Amino-2-methyl-pyridin-3-yl)-2-mercaptomethyl-propionic acid
Conc. hydrochloric acid (2 mL) was added to 2-acetylsulfanylmethyl-3-(6-tert-butoxycarbonylamino-2-methyl-pyridin-3-yl)-propionic acid ethyl ester (77 mg, 0.19 mmol) under argon. The reaction was heated to reflux for 110 min and was then concentrated under reduced pressure to give the title compound (39 mg, 76%) as the hydrochloride salt.

reactant | hydrochloric acid | 2 mL | Cl | ClH
reactant | 2-acetylsulfanylmethyl-3-(6-tert-butoxycarbonylamino-2-methyl-pyridin-3-yl)-propionic acid ethyl ester | 0.19 mmol, 77 mg | C(C)OC(C(CC=1C(=NC(=CC1)NC(=O)OC(C)(C)C)C)CSC(C)=O)=O | C19H28N2O5S
product | 3-(6-Amino-2-methyl-pyridin-3-yl)-2-mercaptomethyl-propionic acid | 39 mg, 76% | NC1=CC=C(C(=N1)C)CC(C(=O)O)CS | C10H14N2O2S
